US06949542B2
(RS)-3-{3-[2-Methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester
Reaction of (RS)-3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-benzoic acid methyl ester with tert.-butyl acetate according to general procedure K (method d; example K8) yielded the title compound as a yellow oil.

reactant | (RS)-3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O | C20H23NO4
reactant | tert.-butyl acetate | C(C)(=O)OC(C)(C)C | C6H12O2
product | (RS)-3-{3-[2-Methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O | C25H31NO5
